US05223498
A mixture of 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide (7.6 g), 2-methoxyethylamine (2 ml) and ethanol (45 ml) was stirred at ambient temperature for 14 days to give 1-(2-methoxyethyl)-2-(2-morpholinophenyl)guanidine (m.p. 125°-128° C.) which was recrystallised from 1,2-dimethoxyethane and converted into its fumaric salt (m.p. 136°-138° C.) which ether.

reactant | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | 7.6 g | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=N
reactant | 2-methoxyethylamine | 2 ml | COCCN | C3H9NO
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 1-(2-methoxyethyl)-2-(2-morpholinophenyl)guanidine | COCCNC(=NC1=C(C=CC=C1)N1CCOCC1)N | C14H22N4O2
